US07442839B2
i) 1-(Cyclopentylthio)-3-iodo-5-methylbenzene
A mixture of 1,3-diiodo-5-methylbenzene (2.00 g), tris(dibenzylideneacetone)dipalladium (0) (20 mg), bis(diphenylphosphino)ferrocene (22 mg), triethylamine (1.5 ml) and 1-methyl-2-pyrrolidinone (3 ml) were stirred at to 20° under nitrogen for 1 h. Cyclopentanethiol (0.15 ml) was added and the mixture was heated to 60° for 18 h. The mixtue was cooled to 20° and was treated with phosphate buffer solution (pH 6.5) and water. The mixture was extracted with EtOAc and the extract dried (Na2SO4). Solvent evaporation in vacuo gave a residue which was purified by Flashmaster™ chromatography (silica, 70 g). Elution with cyclohexane gave the title compound (444 mg). LCMS RT=4.21 min.

reactant | 1,3-diiodo-5-methylbenzene | 2.00 g | IC1=CC(=CC(=C1)C)I | C7H6I2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | Cyclopentanethiol | 0.15 ml | C1(CCCC1)S | C5H10S
reactant | phosphate | pH 6.5 | P(=O)([O-])([O-])[O-]
catalyst | tris(dibenzylideneacetone)dipalladium | 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | bis(diphenylphosphino)ferrocene | 22 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 3 ml | CN1C(CCC1)=O | C5H9NO
product | 1-(Cyclopentylthio)-3-iodo-5-methylbenzene | 444 mg | C1(CCCC1)SC1=CC(=CC(=C1)C)I | C12H15IS
